US07652049B2
To a solution of phosgene (21 μL of a 20% solution in toluene, ˜0.0535 mmol) in CH2Cl2 (0.5 mL) was added 2-[3,5-bis(trifluoromethyl)phenyl]-2-({[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}amino)ethanol (3.1 mg, 0.00535 mmol) in CH2Cl2 (0.5 mL), followed by DIPEA (19 μL, 0.107 mmol). After stirring for 5 minutes, the reaction was poured into water (1 mL) and the mixture was extracted with EtOAc (20 mL). The organic extract was washed with H2O, saturated NaHCO3, and brine (5 mL each). The organic layer was then dried over Na2SO4, filtered, and concentrated. The residue was purified by PTLC to afford 4-[3,5-bis(trifluoromethyl)phenyl]-3-{[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}-1,3-oxazolidin-2-one. Rf=0.27 (25% EtOAc/hexanes). LCMS=606.3 (M+1)+. 1H NMR (CD2Cl2, 500 MHz) (Doubling of some peaks observed; atropisomers present in 1:1 ratio) δ 7.84 (s, 1H), 7.19-7.60 (m, 6H), 6.80-6.87 (m, 2H), 3.84-4.68 (m, 5H), 3.68 & 3.64 (2 singlets, 3H), 2.82 (m, 1H), 1.17-1.21 (m, 6H).

reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | 2-[3,5-bis(trifluoromethyl)phenyl]-2-({[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}amino)ethanol | 0.00535 mmol, 3.1 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)C(CO)NCC1=C(C=CC(=C1)C(F)(F)F)C1=C(C=CC(=C1)C(C)C)OC)(F)F | C28H26F9NO2
reactant | DIPEA | 0.107 mmol, 19 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | water | 1 mL | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | CH2Cl2 | 0.5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 0.5 mL | C(Cl)Cl | CH2Cl2
product | 4-[3,5-bis(trifluoromethyl)phenyl]-3-{[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}-1,3-oxazolidin-2-one | FC(C=1C=C(C=C(C1)C(F)(F)F)C1N(C(OC1)=O)CC1=C(C=CC(=C1)C(F)(F)F)C1=C(C=CC(=C1)C(C)C)OC)(F)F | C29H24F9NO3
